US07456164B2
4-(4-{3-[4-(2-Aminopropionyl)piperazin-1-yl]propoxy}phenyl)-tetrahydropyran-4-carbonitrile
4-[4-(3-piperazin-1-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile (265 mg, 0.81 mmol), DCM (10.6 ml), HOBT (120 mg, 0.89 mmol), FMoc (L)-aniline (277 mg, 0.89 mmol) and EDCl.HCl (171 mg, 0.89 mmol) were stirred at ambient temperature overnight. Water (10 ml) was added and stirred for one hour, the mixture was filtered and the organic phase separated and washed with water (10 ml), the organic phase was dried over MgSO4, filtered and concentrated in vacuo at 35° C. The residue was dissolved in DCM (9 ml) and piperidine (86 mg, 10 mmol) was added, the mixture was stirred at ambient temperature for one hour. To the reaction mixture, water (5 ml) was added and the organic phase separated, dried over MgSO4, filtered and concentrated in vacuo at 35° C. The crude material was subjected to chromatography on silica eluting with 2% MeOH in DCM to provide title compound (136 mg, 42%). 1H NMR (400 MHz, CDCl3), δ 7.38 (d, 2H), 6.93 (d, 2H), 4.11-4.05 (m, 2H), 4.03 (t, 2H), 3.89 (td, 2H), 3.77 (q, 1H), 3.65 (br s, 2H), 3.49 (br s, 2H), 2.55 (t, 2H), 2.45 (br s, 4H), 2.14-2.00 (m, 4H), 1.97 (m, 2H), 1.58 (br s, 2H), 1.25 (d, 3H).

reactant | 4-[4-(3-piperazin-1-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile | 0.81 mmol, 265 mg | N1(CCNCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H27N3O2
reactant | HOBT | 0.89 mmol, 120 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.89 mmol, 171 mg | Cl | ClH
reactant | piperidine | 10 mmol, 86 mg | N1CCCCC1 | C5H11N
reactant | water | 5 ml | O | H2O
reactant | Water | 10 ml | O | H2O
solvent | DCM | 10.6 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-{3-[4-(2-Aminopropionyl)piperazin-1-yl]propoxy}phenyl)-tetrahydropyran-4-carbonitrile | 136 mg, 42% | NC(C(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N)C | C22H32N4O3
